US04639518
Ethyl 2,3-dimethoxy-6-nitrobenzoate
Condensation of 2,3-dimethoxy-6-nitrobenzoic acid (1 eg) with (1.5 eg) of triethyl orthoformate gave after isopropanol crystallization an 80% yield of the title compound, mp 120°-122° C.

reactant | 2,3-dimethoxy-6-nitrobenzoic acid | COC1=C(C(=O)O)C(=CC=C1OC)[N+](=O)[O-] | C9H9NO6
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
solvent | isopropanol | C(C)(C)O | C3H8O
product | Ethyl 2,3-dimethoxy-6-nitrobenzoate | 80% yield | COC1=C(C(=O)OCC)C(=CC=C1OC)[N+](=O)[O-] | C11H13NO6
